* source EE610_PROJETO_FINAL
M_M8         N17343 N17335 N17255 N17255 Mbreakp           
M_M4         N17335 N17343 N17255 N17255 Mbreakp           
M_M6         N17335 N17343 0 0 Mbreakn           
V_V4         N17255 0 3
C_C3         0 N17335  155f  TC=0,0 
M_M7         N17343 N17335 0 0 Mbreakn           
C_C2         0 N17343  155f  TC=0,0 
